* /home/wiley/Projects/geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-sdb powersupply.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*============== Begin SPICE netlist of main design ============
U2 eight ten eleven LM317
C4 eleven nine 1uf  
C3 ten nine 22uF  
R1 nine nine ten 5k  
C2 eight nine 0.1uF  
R2 ten eleven 220  
C1 eight nine 2200uF  
S1 one two <No valid value attribute found>
CONN1 one five 0 <No valid value attribute found>
T1 three five six seven <No valid value attribute found>
F1 two three <No valid value attribute found>
U1 seven six eight nine unknown
.end
